* C:\Users\owenr\Documents\EE251\Oscillator.asc
XU1 N007 N014 N012 X2SC2753
L1 N006 N007 10n
R1 N006 N007 10
L2 N012 N018 1µ
R2 N018 0 1
R4 N014 0 300
R3 N006 N014 3.5k
C1 N007 N012 30p
C2 N012 0 5p
C3 NC_01 N007 20p
C4 0 N010 20p
R5 N011 N010 20k
V1 N011 0 3
V2 N006 0 10
C5 Vout N007 1µ
B1 N019 0 V= (white(30e6*time)/100)
C6 N017 N019 10µ
R6 N017 N012 20k
XU2 N015 N016 N013 X2SC2753
L3 N001 N003 20n
R7 N001 N003 20
R9 N016 0 190
R10 N001 N016 2k
C7 N003 N013 100p
C8 N013 0 125p
V4 N001 0 PWL(0 0 .9n 0 1n 10)
L4 N013 0 2.2µ
R8 N003 N015 .000001
I1 NC_02 0 PWL(1n 1m 2n 0)
C9 N008 0 20p
C10 N008 N003 100p
R11 N009 N008 20k
V3 N009 0 1
C11 N004 N003 100n
R12 N004 0 450
R13 N001 N004 5k
XU3 N001 N005 N002 X2SC2753
R14 N002 0 1k
R15 N005 N004 1k
.tran 0 910n 900n
;ac dec 100 10k 200meg
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
